### PR TITLE
feat(ErdosProblems): 1060

### LINKED ISSUE #1102: Erdős Problem 1060
### What is the conjecture

https://www.erdosproblems.com/1060

  Let $f(n)$ count the number of solutions to $k\sigma(k)=n$, where $\sigma(k)$ is the sum of divisors of $k$. Is it true that $f(n)\leq n^{o(\frac{1}{\log\log n})}$? Perhaps even $\leq (\log n)^{O(1)}$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by shamEiNew**
Reference: https://www.erdosproblems.com/1060

Problem statement
Let $f(n)$ count the number of solutions to $k\sigma(k)=n$, where $\sigma(k)$ is the sum of divisors of $k$. Is it true that $f(n)\leq n^{o(\frac{1}{\log\log n})}$? Perhaps even $\leq (\log n)^{O(1)}$?

Closes #1102

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1060.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+open Asymptotics
+
+/-!
+# Erdős Problem 1060
+
+*Reference:* [erdosproblems.com/1060](https://www.erdosproblems.com/1060)
+-/
+
+
+namespace Erdos1060
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean:27]:
```suggestion
namespace Erdos1060
```

File: FormalConjectures/ErdosProblems/1060.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+`σ(n)` is the classical **sum-of-divisors function**.
+
+More precisely:
+\[
+\sigma(n) = \sum_{d \mid n} d,
+\]
+the sum of all positive divisors of `n`.
+-/
+
+def sigma (n : ℕ) : ℕ := ∑ x ∈ n.divisors, x
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]: Could you use the `\sigma 1` notation that comes if you `open ArithmeticFunction`?

File: FormalConjectures/ErdosProblems/1060.lean [hunk 3]
```diff
@@ -0,0 +1,90 @@
...
+`LittleO h` expresses the asymptotic condition
+
+\[
+h(n) = o\!\Big(\frac{1}{\log\log n}\Big) \quad (n \to \infty).
+\]
+
+-/
+
+def LittleO (h : ℕ → ℝ)  : Prop :=
+  IsLittleO Filter.atTop (fun n => h n) (fun n => (1 : ℝ) / LogLog n)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]: Could you inline all these notations in the statements below? Then it'll be clear they are correct

File: FormalConjectures/ErdosProblems/1060.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+
+/-- The conjecture is about the function $f(n)$ count the number of solutions to $k\sigma(k)=n$,
+where $\sigma(k)$ is the sum of divisors of $k$. Is it true that
+$f(n)\leq n^{o(\frac{1}{\log\log n})}$? Perhaps even $\leq (\log n)^{O(1)}$?
+-/
+
+@[category research open, AMS 11]
+theorem erdos_1060.bound_one (n : ℕ) :
+  ∃ h : ℕ → ℝ, LittleO h ∧ CountSolutions n ≤ (n:ℝ) ^ h n :=
+  by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]: Style-wise, this should look like
```suggestion
    ∃ h : ℕ → ℝ, LittleO h ∧ CountSolutions n ≤ (n:ℝ) ^ h n := by sorry
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! Here is a first batch of comments

File: FormalConjectures/ErdosProblems/1060.lean (hunk 3 above)
Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1060.lean]: I've updated the to reflect the changes.  Should I add other two defintions `CountSolutions` , `LittleO` directly into the main theorem statement?

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1060.lean]: I see no reason not to

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1060.lean]: Note that `CountSolutions` can be very concisely written as `#{k ≤ n | k * σ 1 k = n}`

File: FormalConjectures/ErdosProblems/1060.lean [hunk 5]
```diff
@@ -26,45 +27,24 @@ open ArithmeticFunction
...
-
-
-/-- The conjecture is about the function $f(n)$ count the number of solutions to $k\sigma(k)=n$,
-where $\sigma(k)$ is the sum of divisors of $k$. Is it true that
-$f(n)\leq n^{o(\frac{1}{\log\log n})}$? Perhaps even $\leq (\log n)^{O(1)}$?
+/-- The conjecture is about the function $f(n)$ which counts the number of solutions to
+$k\sigma(k)=n$, where $\sigma(k)$ is the sum of divisors of $k$. The first bound is that $f(n)$ grows slower
+than any power of $n^(\frac{1}{\log\log n})$. The second bound is that $f(n)$ is at most a power of
+$\log n$.
 -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean:34]:
```suggestion
```

File: FormalConjectures/ErdosProblems/1060.lean [hunk 6]
```diff
@@ -0,0 +1,49 @@
...
+import FormalConjectures.Util.ProblemImports
+open Asymptotics
+open ArithmeticFunction
+open Finset
+
+/-!
+# Erdős Problem 1060
+
+*Reference:* [erdosproblems.com/1060](https://www.erdosproblems.com/1060)
+-/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]:
```suggestion

/-!
# Erdős Problem 1060

*Reference:* [erdosproblems.com/1060](https://www.erdosproblems.com/1060)
-/

open Asymptotics ArithmeticFunction Finset Filter Real
```

File: FormalConjectures/ErdosProblems/1060.lean [hunk 7]
```diff
@@ -0,0 +1,49 @@
...
+$\log n$.
+-/
+@[category research open, AMS 11]
+theorem erdos_1060.bound_one (n : ℕ) :
+  ∃ h : ℕ → ℝ,
+    IsLittleO Filter.atTop
+      (fun n => h n)
+      (fun n => (1 : ℝ) / Real.log (Real.log n))
+      ∧
+      #{k  ≤ n | k * σ 1 k = n} ≤ (n:ℝ) ^ h n := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]:
```suggestion
    ∃ h : ℕ → ℝ,
      h =o[atTop] (fun n => 1 / log (log n)) ∧
        #{k ≤ n | k * σ 1 k = n} ≤ (n : ℝ) ^ h n := by sorry
```

File: FormalConjectures/ErdosProblems/1060.lean [hunk 8]
```diff
@@ -0,0 +1,49 @@
...
+
+@[category research open, AMS 11]
+theorem erdos_1060.bound_two (n : ℕ ) :
+ ∃ (C : ℝ), IsBigO Filter.atTop (fun n =>
+  (#{k  ≤ n | k * σ 1 k = n} : ℝ )) (fun n => (Real.log (n : ℝ)) ^ C) := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1060.lean]:
```suggestion
theorem erdos_1060.bound_two (n : ℕ) :
    ∃ C : ℝ, (fun n => (#{k  ≤ n | k * σ 1 k = n} : ℝ)) =O[atTop] (fun n => log n ^ C) := by sorry
```
